US04892924
Preparation of 1,1-bis(3-phenyl-4-hydroxyphenyl)cyclohexane
510 g (3 mol) of o-phenylphenol and 98 g (1 mol) of cyclohexanon were mixed and the temperature was raised to 60° C. to dissolve the mixture. To the mixture was then added 150 g of 90% by weight sulfuric acid and reacted with stirring for 24 hours at 70° C. After the resulting reaction product was diluted with 1 liter of monochlorobenzene and washed three times with warm water, the organic phase was heated to 190° C. under reduced pressure to remove the solvent and the unreacted materials. After dissolving the residue in 400 milliliters of methylene chloride, 500 milliliters of a 5N aqueous sodium hydroxide solution was added and stirred. After crystals were precipitated by cooling with ice, the crystals were washed twice with 500 milliliters of methylene chloride and then washed with 300 milliliters of a 2N aqueous sodium hydroxide solution. After adding 2 liters of 2N hydrochloric acid and stirring, the crystals were filtered, washed five times with water, and then recrystallized from acetone-cyclohexane mixture solution.

reactant | o-phenylphenol | 3 mol, 510 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | cyclohexanon | 1 mol, 98 g | C1(CCCCC1)=O | C6H10O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | monochlorobenzene | 1 liter | ClC1=CC=CC=C1 | C6H5Cl
product | 1,1-bis(3-phenyl-4-hydroxyphenyl)cyclohexane | C1(=CC=CC=C1)C=1C=C(C=CC1O)C1(CCCCC1)C1=CC(=C(C=C1)O)C1=CC=CC=C1 | C30H28O2
